US07700808B2
4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)-N-(2-tetrahydrofuranyl)benzoic acid amide (Compound No. 2-09 of the Present Invention)
To a solution of 0.25 g of 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)benzoic acid amide that was synthesized under Synthetic Example 9 in 3 mL of dichloromethane, 68 mg of 2,3-dihydrofuran and a catalytic amount of p-toluenesulfonic acid monohydrate were added and the mixture was stirred for 18 hours at room temperature. The solvent was distilled off from the reaction solution under reduced pressure, and the resulting residue was purified using silica gel column chromatography that was eluted with ethyl acetate-hexane (2:3) followed by crystallization from a mixed solvent of hexane and a small amount of ethyl acetate to obtain 0.12 g of aimed product as yellow solid.

reactant | 4-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)benzoic acid amide | 0.25 g | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C1=CC=C(C(=O)N)C=C1)C(F)(F)F | C17H10Cl2F3NO2
reactant | 2,3-dihydrofuran | 68 mg | O1CCC=C1 | C4H6O
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)-N-(2-tetrahydrofuranyl)benzoic acid amide | 0.12 g | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C1=CC=C(C(=O)NC2OCCC2)C=C1)C(F)(F)F | C21H16Cl2F3NO3
